US08030487B2
Synthesis of N-[4-(3-Pyrrolidin-1-yl-Propane-1-Sulfonyl)-Phenyl]-Pyrimidine-2,5-Diamine (Intermediate 2)
To a solution of 2-amino-5-nitropyrimidine (840 mg, 6.0 mmol) in 50 mL anhydrous 1,4-dioxane were added 1-[3-(4-bromo-benzenesulfonyl)-propyl]-pyrrolidine (2.9 g, 8.7 mmol), Xantphos, (690 mg, 1.2 mmol), Pd2(dba)3 (559 mg, 0.61 mmol) and Cs2CO3 (5.8 g, 18 mmol). The reaction mixture was stirred at 100° C. for 5 h under argon. The solvent was removed under reduced pressure. The resulting solution was extracted with CHCl3 (3×50 mL) and sat. NaHCO3 (50 mL). The organic layer was separated, washed with brine, dried over Na2SO4 and filtered. The organic solvent was removed and the crude product was purified by silica gel column with 20% CH3OH/CHCl3 as an eluent. The precipitated yellow solid was isolated by washed with acetone and dried in vacuo (1.2 g, 52%). The above product was hydrogenated in 100 mL methanol/ethyl acetate (v/v: 1:1) using Pd/C (10%, 1 g) for 2 h. The palladium catalyst was removed by filtration, and the solvent was evaporated. The pale yellow solid was isolated by washed with acetone/methanol (v/v 5:1) and dried in vacuo (550 mg, 49%).

reactant | 2-amino-5-nitropyrimidine | 6.0 mmol, 840 mg | NC1=NC=C(C=N1)[N+](=O)[O-] | C4H4N4O2
reactant | 1-[3-(4-bromo-benzenesulfonyl)-propyl]-pyrrolidine | 8.7 mmol, 2.9 g | BrC1=CC=C(C=C1)S(=O)(=O)CCCN1CCCC1 | C13H18BrNO2S
reactant | Xantphos | 1.2 mmol, 690 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | Cs2CO3 | 18 mmol, 5.8 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | 1,4-dioxane | 50 mL | O1CCOCC1 | C4H8O2
catalyst | Pd2(dba)3 | 0.61 mmol, 559 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | N-[4-(3-Pyrrolidin-1-yl-Propane-1-Sulfonyl)-Phenyl]-Pyrimidine-2,5-Diamine | N1(CCCC1)CCCS(=O)(=O)C1=CC=C(C=C1)NC1=NC=C(C=N1)N | C17H23N5O2S
